US06720338B2
4-bromo-3,5-dimethyl-1-pentyl-1H-pyrazole
The desired product was prepared by substituting 5-iodopentane and 4-bromo-3,5-dimethylpyrazole for 1-bromooctane and 4-iodopyrazole, respectively, in Example 198A. MS (ESI(+)) m/e 245, 247 (M+H)+.

reactant | 4-bromo-3,5-dimethylpyrazole | BrC=1C(=NNC1C)C | C5H7BrN2
reactant | 1-bromooctane | BrCCCCCCCC | C8H17Br
reactant | 4-iodopyrazole | IC=1C=NNC1 | C3H3IN2
product | 4-bromo-3,5-dimethyl-1-pentyl-1H-pyrazole | BrC=1C(=NN(C1C)CCCCC)C | C10H17BrN2
